### PR TITLE
feat: define R?

### PR DESCRIPTION
**Pull request by erdOne**

### CODE REVIEW

File: FLT/Deformations/RepresentationTheory/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,348 @@
...
+def GaloisRep.IsFlatFiberAt (ρ : GaloisRep K A M) : Prop :=
+  ∃ (G : Type uA) (_ : CommRing G) (_ : HopfAlgebra 𝒪ᵥ G)
+    (f : Additive (Kᵥ ⊗[𝒪ᵥ] G →ₐ[Kᵥ] Kᵥᵃˡᵍ) →+[Γ Kᵥ] (ρ.adic v).Space),
+    Function.Bijective f
+
+class GaloisRep.IsFlatAt [IsLocalRing A] (ρ : GaloisRep K A M) : Prop where
+  cond : ∀ n : ℕ, n ≠ 0 → (ρ.baseChange (A ⧸ IsLocalRing.maximalIdeal A ^ n)).IsFlatFiberAt v
+
+end Flat
+#min_imports
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Basic.lean]: this can go :-)

File: FLT/Deformations/RepresentationTheory/AbsoluteGaloisGroup.lean [hunk 2]
```diff
@@ -0,0 +1,287 @@
...
+    exact .inr (isIntegral_of_spectralNorm_le_one this)
+
+noncomputable
+def localInertiaGroup : Subgroup (Γ Kᵥ) :=
+  (𝔪 (IntegralClosure 𝒪ᵥ (Kᵥᵃˡᵍ))).toAddSubgroup.inertia (Γ Kᵥ)
+
+open IntermediateField in
+noncomputable
+def localTameAbelianInertiaGroup : Subgroup (Γ Kᵥ) where
+  carrier := { σ | ∀ x, x ^ (Nat.card (κ 𝒪ᵥ) - 1) ∈ fixedField (localInertiaGroup v) → σ x = x }
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/AbsoluteGaloisGroup.lean:247]: check this

File: FLT/Deformations/Lemmas.lean [hunk 3]
```diff
@@ -166,3 +169,177 @@ open IsLocalRing in
...
+  smul_add _ _ _ := Subtype.ext (smul_add _ _ _)
+  smul_one _ := Subtype.ext (smul_one _)
+  smul_mul _ _ _ := Subtype.ext (MulSemiringAction.smul_mul _ _ _)
+
+lemma Subring.algebraMap_def {R : Type*} [CommRing R] (S : Subring R) :
+    algebraMap S R = S.subtype := rfl
+
+instance {K A : Type*} [Field K] [CommRing A] [Algebra K A] (R : ValuationSubring K)
+    [FaithfulSMul K A] : FaithfulSMul R A :=
+  Subsemiring.instFaithfulSMulSubtypeMem R
```
Comment (kbuzzard) [inline FLT/Deformations/Lemmas.lean:286]: Is this needed??

File: FLT/Deformations/RepresentationTheory/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,379 @@
...
+attribute [local instance 100000]
+  instAlgebraSubtypeMemValuationSubring_fLT IntermediateField.algebra'
+  Algebra.toSMul Subalgebra.toCommRing Algebra.toModule
+  Subalgebra.toRing Ring.toAddCommGroup AddCommGroup.toAddGroup
+  ValuationSubring.smulCommClass IntermediateField.toAlgebra
+  IntermediateField.smulCommClass_of_normal
+  mulSemiringActionIntegralClosure
+  Subalgebra.algebra
+  CommRing.toCommSemiring
+  Valued.toIsUniformAddGroup
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Basic.lean]: What's this all about? Is it needed?

File: FLT/Deformations/RepresentationTheory/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,379 @@
...
+omit [NumberField K] in
+@[simp]
+lemma FramedGaloisRep.ofGL_apply (ρ : Γ K →ₜ* GL n A) (σ) : ofGL ρ σ = (ρ σ).toLin := rfl
+
+/-- `1`-dimensional framed galois reps are equivalent to (continuous) characters.  -/
+def FramedGaloisRep.equivChar {n : Type*} [Unique n] : FramedGaloisRep K A n ≃ (Γ K →ₜ* A) :=
+  letI := moduleTopology A (Module.End A (n → A))
+  letI : ContinuousMul _ := ⟨IsModuleTopology.continuous_mul_of_finite A (Module.End A (n → A))⟩
+  letI e : A ≃ₐ[A] Matrix n n A := (Matrix.uniqueAlgEquiv).symm
+  letI e : Module.End A (n → A) ≃A[A] A :=
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Basic.lean]: Can the first of these lines (i.e. line 179) be deleted?

File: FLT/Deformations/RepresentationTheory/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,379 @@
...
+
+omit [NumberField K] in
+@[simp]
+lemma FramedGaloisRep.GL_symm_apply (ρ : Γ K →ₜ* GL n A) (σ) : GL.symm ρ σ = (ρ σ).toLin := rfl
+
+omit [NumberField K] in
+@[simp]
+lemma FramedGaloisRep.ofGL_apply (ρ : Γ K →ₜ* GL n A) (σ) : ofGL ρ σ = (ρ σ).toLin := rfl
+
+/-- `1`-dimensional framed galois reps are equivalent to (continuous) characters.  -/
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Basic.lean]: I have some linter complaining about this line (apparently "doc-strings should end with a single space or newline")

File: FLT/Deformations/RepresentationTheory/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,379 @@
...
+
+instance [IsTopologicalRing B] [Algebra A B] [ContinuousSMul A B]
+    [Module.Finite A M] [Module.Free A M] (ρ : GaloisRep K A M) (v : Ω K) [ρ.IsUnramifiedAt v] :
+    (ρ.baseChange B).IsUnramifiedAt v :=
+  ⟨(GaloisRep.IsUnramifiedAt.localInertiaGroup_le (ρ := ρ)).trans
+    (((ρ.adic v).ker_baseChange (B := B)))⟩
+
+variable [Module.Free A M] [Module.Finite A M] [Module.Free A N] [Module.Finite A N]
+
+/-- The character polynomial of the frobenious conjugacy class at `v` under `ρ`. -/
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Basic.lean]:
```suggestion
/-- The characteristic polynomial of the frobenious conjugacy class at `v` under `ρ`. -/
```

File: FLT/Deformations/RepresentationTheory/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,379 @@
...
+  dsimp [baseChange, GaloisRep.det]
+  rw [GL_symm_apply]
+  dsimp [← Matrix.toLin'_apply']
+  rw [LinearMap.det_toLin', Matrix.map_det, LinearMap.det_toMatrix']
+
+/-- Given a (global) galois rep, this is the local galois rep at a finite prime `v`.
+Note: this fixes an arbitrary embedding `Kᵃˡᵍ → Kᵥᵃˡᵍ`, or equivalently,
+an arbitrary choice of valuation on `Kᵃˡᵍ` extending `v`. -/
+noncomputable
+abbrev GaloisRep.adic (ρ : GaloisRep K A M) (v : Ω K) : GaloisRep (v.adicCompletion K) A M :=
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Basic.lean]: I'm not mad keen on this name. Maybe `GaloisRep.toLocal` or even `GaloisRep.toLocalGaloisRep` if you can face it? Right now the def is confusing (I think)

File: FLT/Deformations/RepresentationTheory/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,379 @@
...
+    [Module.Finite A M] [Module.Free A M] (ρ : GaloisRep K A M) (v : Ω K) [ρ.IsUnramifiedAt v] :
+    (ρ.baseChange B).IsUnramifiedAt v :=
+  ⟨(GaloisRep.IsUnramifiedAt.localInertiaGroup_le (ρ := ρ)).trans
+    (((ρ.adic v).ker_baseChange (B := B)))⟩
+
+variable [Module.Free A M] [Module.Finite A M] [Module.Free A N] [Module.Finite A N]
+
+/-- The character polynomial of the frobenious conjugacy class at `v` under `ρ`. -/
+noncomputable
+def GaloisRep.charFrob (ρ : GaloisRep K A M) : Polynomial A := (ρ.adic v Frobᵥ).charpoly
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Basic.lean]: So is your vision that Frob_v should be an element of a local Galois group rather than a global one? Should we have a predicate `IsFrobeniusAt v` on global Galois groups?

File: FLT/Deformations/RepresentationTheory/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,379 @@
...
+  smul g v := ρ g v
+  one_smul := by simp [instHSMul]
+  mul_smul := by simp [instHSMul]
+  smul_zero := by simp [instHSMul]
+  smul_add := by simp [instHSMul]
+
+attribute [instance 10000]
+  MulSemiringAction.toDistribMulAction
+  DistribMulAction.toMulAction
+  MulAction.toSMul
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Basic.lean]: Do these do anything?

File: FLT/Deformations/RepresentationTheory/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,379 @@
...
+
+open TensorProduct in
+/-- A galois rep `ρ : Γ K → Aut_A(M)` has a flat prolongation at `v` if `M` (when viewed as a
+`Γ Kᵥ`) module is isomorphic to the geometric points of a finite etale hopf algebra over `Kᵥ`, and
+there exists an finite flat hopf algebra over `𝒪ᵥ` whose generic fiber is isomorphic to it.
+In particular this requires `M` (and by extension `A`) to have finite cardinality. -/
+def GaloisRep.HasFlatProlongationAt (ρ : GaloisRep K A M) : Prop :=
+  ∃ (G : Type uK) (_ : CommRing G) (_ : HopfAlgebra 𝒪ᵥ G)
+    (_ : Module.Flat 𝒪ᵥ G) (_ : Module.Finite 𝒪ᵥ G) (_ : Algebra.Etale Kᵥ (Kᵥ ⊗[𝒪ᵥ] G))
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Basic.lean:361]: etaleness is automatic because K_v has char zero and all finite flat group schemes are etale in char 0. I mention this just to make sure you're aware of it and have intentionally put it into to the definition anyway.

File: FLT/Deformations/LiftFunctor.lean [hunk 12]
```diff
@@ -69,4 +91,53 @@ def deformationFunctor (ρ : (repnFunctor n G 𝓞).obj .residueField) :
     Subfunctor (repnQuotFunctor n G 𝓞) :=
   .ofIsTerminal _ ProartinianCat.isTerminalResidueField {(toRepnQuot n G 𝓞).app _ ρ}
 
+/-- The subfunctor of flat lifts. This probably only makes sense when `𝓞` is `v`-adic. -/
+def flatFunctor (v : Ω K) : Subfunctor (repnFunctor n (Γ K) 𝓞) where
+  obj R := { ρ | (toFramedGaloisRep ρ).IsFlatAt v }
+  map := sorry -- See e.g. Conrad Theorem 1.6 of CSS
+
+/-- The subfunctor of unramified (at `v`) representations. -/
+def unramifiedFunctor (v : Ω K) : Subfunctor (repnFunctor n (Γ K) 𝓞) where
```
Comment (kbuzzard) [inline FLT/Deformations/LiftFunctor.lean:101]: I'm surprised that you don't do "unramified outside S" -- is the idea to just use infinitely many of these? Does that cause problems?

File: FLT/Deformations/Representable.lean [hunk 13]
```diff
@@ -17,4 +20,82 @@ lemma isCorepresentable_deformationFunctor :
...
+/-!
+Suppose `K` is a totally real number field with even degree, `l > 3` is a prime,
+`𝓞` an `ℤₗ`-algebra which is noetherian complete local with finite residue field.
+-/
+
+variable (𝓞 : Type u) [CommRing 𝓞] [IsLocalRing 𝓞] [IsNoetherianRing 𝓞]
+  [Finite (ResidueField 𝓞)] [IsAdicComplete (maximalIdeal 𝓞) 𝓞]
+variable {K : Type u} [Field K] [NumberField K]
+variable [NumberField.IsTotallyReal K] (hK : Even (Module.finrank ℚ K))
+variable (l : ℕ) [Fact l.Prime] (hl : 3 < l) [Algebra ℤ_[l] 𝓞]
```
Comment (kbuzzard) [inline FLT/Deformations/Representable.lean:42]: Why exclude l=3?

File: FLT/Deformations/Representable.lean [hunk 14]
```diff
@@ -17,4 +20,82 @@ lemma isCorepresentable_deformationFunctor :
...
+3. It is unramified outside `l` and `S`.
+4. Its trace is `2` on `ker(Iᵥ → k(v)ˣ)`.
+5. It is flat at all `v | l`.
+-/
+def SLiftFunctor : Subfunctor (repnFunctor (Fin 2) (Γ K) 𝓞) :=
+  liftFunctor (Fin 2) _ 𝓞 ρ ⊓
+  detConditionFunctor (Fin 2) 𝓞 l ⊓
+  (⨅ (v : Ω K) (_ : ↑l ∉ v.asIdeal) (_ : v ∉ S), unramifiedFunctor (Fin 2) 𝓞 v) ⊓
+  (⨅ (v : Ω K) (_ : v ∈ S), traceConditionFunctor 𝓞 v) ⊓
+  (⨅ (v : Ω K) (_ : ↑l ∉ v.asIdeal), flatFunctor (Fin 2) 𝓞 v)
```
Comment (kbuzzard) [inline FLT/Deformations/Representable.lean]:
```suggestion
  (⨅ (v : Ω K) (_ : ↑l ∈ v.asIdeal), flatFunctor (Fin 2) 𝓞 v)
```
right?

File: FLT/Deformations/Representable.lean [hunk 15]
```diff
@@ -17,4 +20,82 @@ lemma isCorepresentable_deformationFunctor :
...
+3. It is unramified outside `l` and `S`.
+4. Its trace is `2` on `Iᵥ`.
+5. It is flat at all `v | l`.
+-/
+def narrowSLiftFunctor : Subfunctor (repnFunctor (Fin 2) (Γ K) 𝓞) :=
+  liftFunctor (Fin 2) _ 𝓞 ρ ⊓
+  detConditionFunctor (Fin 2) 𝓞 l ⊓
+  (⨅ (v : Ω K) (_ : ↑l ∉ v.asIdeal) (_ : v ∉ S), unramifiedFunctor (Fin 2) 𝓞 v) ⊓
+  (⨅ (v : Ω K) (_ : v ∈ S), narrowTraceConditionFunctor 𝓞 v) ⊓
+  (⨅ (v : Ω K) (_ : ↑l ∉ v.asIdeal), flatFunctor (Fin 2) 𝓞 v)
```
Comment (kbuzzard) [inline FLT/Deformations/Representable.lean]: ditto

File: FLT/Deformations/Representable.lean [hunk 16]
```diff
@@ -17,4 +20,82 @@ lemma isCorepresentable_deformationFunctor :
...
+
+variable (hρ : ρ ∈ (narrowSLiftFunctor 𝓞 l S ρ).obj _)
+
+include hK hl hS hρ in
+lemma isCorepresentable_narrowSLiftFunctor :
+    (narrowSLiftFunctor 𝓞 l S ρ).toFunctor.IsCorepresentable := by
+  sorry
```
Comment (kbuzzard) [inline FLT/Deformations/Representable.lean:89]: Do we have a strat for this?

File: FLT/Deformations/RepresentationTheory/Frobenius.lean [hunk 17]
```diff
@@ -0,0 +1,135 @@
...
+  Then the Frobenius is unique (if exists).
+
+Let `G` be a finite group acting on a ring `S`, and `R` is the fixed subring of `S`.
+
+- `IsArithFrobAt`: We say that a `σ : G` is an (arithmetic) Frobenius at `Q`
+  if `σ • x ≡ x ^ q (mod Q)` for all `x : S`.
+- `IsArithFrobAt.mul_inv_mem_inertia`:
+  Two Frobenius elements at `Q` differ by an element in the inertia subgroup of `Q`.
+- `IsArithFrobAt.conj`: If `σ` is a Frobenius at `Q`, then `τστ⁻¹` is a Frobenius at `σ • Q`.
+- `IsArithFrobAt.exists_of_isInvariant`: Frobenius element exists.
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Frobenius.lean:45]: Did an LLM write this? Do these declarations exist? Many of them do not seem to be in this file...

File: FLT/Deformations/RepresentationTheory/Etale.lean [hunk 18]
```diff
@@ -0,0 +1,513 @@
...
+`G`-set ↔ `k`-algebra
+`X → Hom_G(X, L)`,
+`Hom_K(A, L) ← A`
+with unit and counits:
+`AlgHom.evalMulActionHom`: `A →ₐ[K] ((A →ₐ[K] L) →[G] L)`
+`MulActionHom.evalAlgHom`: `X →[G] ((X →[G] L) →ₐ[K] L)`
+
+Suppose `L/K` is galois with galois group `G`:
+
+* If `X` is finite discrete with continuous `G` action, then `X →[G] L` is finte etale.
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Etale.lean]:
```suggestion
* If `X` is finite discrete with continuous `G` action, then `X →[G] L` is finite etale.
```

File: FLT/Deformations/RepresentationTheory/Etale.lean [hunk 19]
```diff
@@ -0,0 +1,513 @@
...
+import Mathlib.RingTheory.Bialgebra.Basic
+import Mathlib.RingTheory.Etale.Field
+import Mathlib.RingTheory.HopkinsLevitzki
+
+/-!
+# Equivalence between continuous `G`-finite sets and `k`-etale algebras
+
+Given a group `G`, fields `L/K`, such that `G` acts on `L` by `k`-algebra homomorphisms.
+We have a contravariant adjunction
+`G`-set ↔ `k`-algebra
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Etale.lean]: are those three k's supposed to be K's?

File: FLT/Deformations/RepresentationTheory/Etale.lean [hunk 20]
```diff
@@ -0,0 +1,513 @@
...
+  map_add' _ _ := rfl
+  commutes' _ := rfl
+
+@[simp]
+lemma MulAction.orbitRel.Quotient.mk_smul {G X : Type*} [Group G] [MulAction G X] (g : G) (x : X) :
+  (⟦g • x⟧ : orbitRel.Quotient G X) = ⟦x⟧ := Quotient.sound ⟨g, rfl⟩
+
+/-- Given a representative for each orbit of `X` under `G`, and for each `x : X` a choice of `σ`
+that sends `x` to the representative, we obtain a bijection between `G`-equivariant homs from `X`
+and the product of `Stab(x)`-fixed points over each orbit representative `x`.  -/
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Etale.lean]:
```
error: doc-strings should end with a single space or newline
```

File: FLT/Deformations/RepresentationTheory/ContinuousSMulDiscrete.lean [hunk 21]
```diff
@@ -0,0 +1,49 @@
...
+import Mathlib.Topology.Algebra.Group.Basic
+
+variable {G M : Type*} [TopologicalSpace G] [SMul G M]
+
+/--
+`ContinuousSMulDiscrete G M` means that the action `G × M → M` is continuous
+when `M` is given the discrete topology (See `continuousSMulDiscrete_iff`).
+
+This class is especially useful when `M` already has another topology and we cannot easily put the
+discrete topology on it.
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/ContinuousSMulDiscrete.lean:15]: Does this happen?

File: FLT/Deformations/RepresentationTheory/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,379 @@
...
+    (f : Additive (Kᵥ ⊗[𝒪ᵥ] G →ₐ[Kᵥ] Kᵥᵃˡᵍ) →+[Γ Kᵥ] (ρ.adic v).Space),
+    Function.Bijective f
+
+/-- A galois rep `ρ : Γ K → Aut_A(M)` is flat at `v` if `A/mⁿ ⊗ M` has a flat prolongation at `v`
+for all `n`. -/
+class GaloisRep.IsFlatAt [IsLocalRing A] (ρ : GaloisRep K A M) : Prop where
+  cond : ∀ n : ℕ, n ≠ 0 →
+    (ρ.baseChange (A ⧸ IsLocalRing.maximalIdeal A ^ n)).HasFlatProlongationAt v
```
Comment (kbuzzard) [inline FLT/Deformations/RepresentationTheory/Basic.lean:369]: I guess it would be better if these were predicates on reps of local Galois groups but right now we still have no way to say "local field" (and in fact the correct context is something like "rep of absolute Galois group of finite extension of field of fractions of Witt vectors of perfect char p field")

File: FLT/NumberField/Completion/Finite.lean [hunk 23]
```diff
@@ -13,7 +13,7 @@ import Mathlib.LinearAlgebra.FreeModule.IdealQuotient
 
 -/
 
-variable (K : Type) [Field K] [NumberField K]
+variable (K : Type*) [Field K] [NumberField K]
```
Comment (kbuzzard) [inline FLT/NumberField/Completion/Finite.lean:16]: lol this totally confused me too the other day :-)

**Review by kbuzzard — APPROVED** [review]
Thanks a lot. Modulo my comments I'm happy to merge this. If you put `awaiting-review` as a comment then it'll add the label back.

File: FLT/Deformations/RepresentationTheory/Basic.lean (hunk 11 above)
Comment (erdOne) [reply FLT/Deformations/RepresentationTheory/Basic.lean:361]: Yes. But I think that this would be hard to prove in general, while in the applications they would come from finite groups so it would be easy there. But if this proves to be problematic later then we can move this out and state the statement you mentioned as a sorry. Do you have an opinion here?

File: FLT/Deformations/Representable.lean (hunk 13 above)
Comment (erdOne) [reply FLT/Deformations/Representable.lean:42]: I don't know. But the secret document does so.

File: FLT/Deformations/RepresentationTheory/Frobenius.lean (hunk 17 above)
Comment (erdOne) [reply FLT/Deformations/RepresentationTheory/Frobenius.lean:45]: I copy pasted the whole file from The existing `Frobenius.lean` in mathlib. They are all things in mathlib.

File: FLT/Deformations/RepresentationTheory/ContinuousSMulDiscrete.lean (hunk 21 above)
Comment (erdOne) [reply FLT/Deformations/RepresentationTheory/ContinuousSMulDiscrete.lean:15]: For example $$\mathcal{Gal}(\overline{\mathbb{Q}}_p/\mathbb{Q}_p)$$ acts on $$\overline{\mathbb{Q}}_p$$ with open stabilizer but $$\overline{\mathbb{Q}}_p$$ has a topology.

File: FLT/Deformations/RepresentationTheory/Basic.lean (hunk 22 above)
Comment (erdOne) [reply FLT/Deformations/RepresentationTheory/Basic.lean:369]: I agree. I think we should make that switch once we have a working definition of local fields. But I think the switch will be defeq so I think it is fine to have this for now.

File: FLT/Deformations/RepresentationTheory/Basic.lean (hunk 11 above)
Comment (kbuzzard) [reply FLT/Deformations/RepresentationTheory/Basic.lean:361]: I guess my opinion is "it's fine as it is but why not add a remark somewhere that this hypothesis can be removed at the expense of proving a tricky theorem"

File: FLT/Deformations/Representable.lean (hunk 13 above)
Comment (kbuzzard) [reply FLT/Deformations/Representable.lean:42]: Oh yeah there's a glitch when ell=3 when trying to find auxiliary primes when the rep is induced from a character of F(sqrt(-3)). OK let's leave it as l>3.

File: FLT/Deformations/RepresentationTheory/Basic.lean (hunk 4 above)
Comment (erdOne) [reply FLT/Deformations/RepresentationTheory/Basic.lean]: It once made everything timeout but somehow this issue is no more.

File: FLT/Deformations/RepresentationTheory/Basic.lean (hunk 11 above)
Comment (erdOne) [reply FLT/Deformations/RepresentationTheory/Basic.lean:361]: I added a comment.

File: FLT/Deformations/LiftFunctor.lean (hunk 12 above)
Comment (erdOne) [reply FLT/Deformations/LiftFunctor.lean:101]: I think it is fine to use this? We could define unramified outside `S`, but the definition would exactly be the conjunction of infinitely many of these. What problems might this have?

File: FLT/Deformations/Representable.lean (hunk 13 above)
Comment (erdOne) [reply FLT/Deformations/Representable.lean:42]: I copied your reply to a comment.

File: FLT/Deformations/Representable.lean (hunk 16 above)
Comment (erdOne) [reply FLT/Deformations/Representable.lean:89]: I have not yet spent much time on this. 
[Böckle's notes](https://typo.iwr.uni-heidelberg.de/fileadmin/groups/arithgeo/templates/data/Gebhard_Boeckle/Boeckle-Barcelona-DefTheory-Rev.pdf) seems to have an explicit construction of some sorts (Proposition 1.3.1 (a)) which we can probably then cut out the quotient that we need. But I have not yet made sure that all conditions are met, nor if there exists a better reference.

File: FLT/Deformations/RepresentationTheory/ContinuousSMulDiscrete.lean (hunk 21 above)
Comment (kbuzzard) [reply FLT/Deformations/RepresentationTheory/ContinuousSMulDiscrete.lean:15]: Aah!

File: FLT/Deformations/Lemmas.lean (hunk 3 above)
Comment (erdOne) [reply FLT/Deformations/Lemmas.lean:286]: This is here for performance reasons.

File: FLT/Deformations/RepresentationTheory/Basic.lean (hunk 9 above)
Comment (erdOne) [reply FLT/Deformations/RepresentationTheory/Basic.lean]: `Frobᵥ` depends on a prime upstairs for now and there is currently no API to get one from just a prime downstairs. So if we already chosen one upstairs via `toLocal` we could reuse that prime for now.
